* C:\Users\RISHIVEER YADAV\OneDrive\Desktop\LTSpice\Lab Work and Projects\Project - 1 (Audio Amplifier)\Ultimate Design.asc
V1 VCC 0 12
V2 VEE 0 -12
Q1 N011 N012 N015 0 BC547B
V3 N012 0 SINE(0 20m 1000) AC 1
Q2 N004 0 N015 0 BC547B
R3 VCC N011 6k
R4 VCC N004 6k
C1 N013 N004 10µ
R5 VCC N013 220k
R6 VCC N005 8k
R7 N013 VEE 25k
Q3 N005 N013 N016 0 BC547B
C2 N006 N005 10µ
R9 N016 VEE 1k
R2 N015 VEE 5k
R1 N007 N006 8k
C3 N001 N007 1µ
XU1 0 N001 VCC VEE N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C4 N008 N002 10µ
C5 N002 N001 1n
R10 N002 N001 8k
D1 N003 N008 1N4007
R8 VCC N003 1k
D2 N008 N014 1N4007
R11 N014 VEE 1k
Q4 VCC N003 N009 0 QTIP31A
Q5 VEE N014 N009 0 QTIP32A
C6 N010 N009 1µ
.model D D
.lib C:\Users\RISHIVEER YADAV\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\RISHIVEER YADAV\AppData\Local\LTspice\lib\cmp\standard.bjt
;tran 10m
.lib tip31a.lib
.lib tip32a.lib
.ac dec 20 1 1000k
.lib UniversalOpAmp1.lib
.backanno
.end
