* C:\Users\RISHIVEER YADAV\OneDrive\Desktop\LTSpice\Lab Work and Projects\Project -2 (Boost Converter Circuit)\Boost Converter Circuit.asc
L1 N001 N002 200µ
M1 N002 N004 0 0 IRF510
V1 N001 0 5
V2 N004 0 PULSE(0 7 0 0 0 5.83u 10u)
D1 N002 N003 MBRS140
C1 N003 0 22µ
R1 N003 0 118.3
.model D D
.lib C:\Users\RISHIVEER YADAV\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\RISHIVEER YADAV\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10m
.backanno
.end
